US07994204B2
1-(3-Ethyl-2(4-methylphenoxy)-3H-imidazol-4-yl)-ethanol
To a solution of the compound obtained in Example 1-(2) (2.493 g) in THF (123 ml), n-BuLi (4.8 ml, 2.59 N in hexane) was added dropwise at −78° C. under an argon atmosphere and stirred at the same temperature for 3.5 hours. The reaction mixture was cooled to −100° C., mixed with Ac2O (2.3 ml), warmed to −65° C. over 50 minutes, diluted with saturated aqueous sodium bicarbonate, and extracted with AcOEt. After washing with brine, the organic layer was dried over MgSO4, filtered and then evaporated to remove the solvent. The resulting crude product was purified by column chromatography (NH-type silica gel, AcOEt/hexane=10% to 30%) to give a mixture of 1-(3-ethyl-2(4-methylphenoxy)-3H-imidazol-4-yl)-ethanone and 1-ethyl-2(4-methylphenoxy)-1H-imidazole (1.509 g, colorless oil). To a solution of the resulting compounds (1.508 g) in MeOH (13 ml), NaBH4 (243 mg) was added at 0° C. and stirred at the same temperature for 15 minutes and then at room temperature for 15 minutes. The reaction mixture was concentrated, diluted with water, and extracted with AcOEt. After washing with brine, the organic layer was dried over MgSO4, filtered and then evaporated to remove the solvent. The resulting crude product was purified by column chromatography (NH-type silica gel, AcOEt/hexane=20% to 99%) to give the titled compound (1.131 g, colorless oil).

reactant | n-BuLi | 2.59 N, 4.8 ml | [Li]CCCC
reactant | Ac2O | 2.3 ml | CC(=O)OC(=O)C | C4H6O3
reactant | 1-(3-ethyl-2(4-methylphenoxy)-3H-imidazol-4-yl)-ethanone | C(C)N1C(=NC=C1C(C)=O)OC1=CC=C(C=C1)C | C14H16N2O2
reactant | 1-ethyl-2(4-methylphenoxy)-1H-imidazole | 1.509 g | C(C)N1C(=NC=C1)OC1=CC=C(C=C1)C | C12H14N2O
reactant | NaBH4 | 243 mg | [BH4-].[Na+]
solvent | THF | 123 ml | C1CCOC1 | C4H8O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | MeOH | 13 ml | CO | CH4O
product | 1-(3-Ethyl-2(4-methylphenoxy)-3H-imidazol-4-yl)-ethanol | 1.131 g | C(C)N1C(=NC=C1C(C)O)OC1=CC=C(C=C1)C | C14H18N2O2
